US05747423
2-(3-thienyl)-6-methyl-4-(1-methyl-3-trifluoromethyl-5-pyrazolyloxy)-pyrimidine
0.145 g of 1,4-bis(diphenylphosphino)butane and 0.115 g bis(benzonitrile)palladium(II)chloride are refluxed in 10 m toluene under nitrogen for 2 hours. At room temperature 1 g 2-chloro-6-methyl-4-(1-methyl-3-trifluoromethyl-5-pyrazolyloxy)pyrimidine, 0.55 g thiophene-3-boronic acid, 0.8 g sodium hydrogen carbonate, 15 mL water and 20 mL dioxane are added, and the mixture is heated to reflux. After 2 hours another 0.2 g thiophene-3-boronic acid are added, and reflux continued for 1 hour. The organic phase is washed with with water and chromatographed to give 1 g of the title compound (m.p. 122° C.).

reactant | 1,4-bis(diphenylphosphino)butane | 0.145 g | C1(=CC=CC=C1)P(CCCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H28P2
reactant | 2-chloro-6-methyl-4-(1-methyl-3-trifluoromethyl-5-pyrazolyloxy)pyrimidine | 1 g | ClC1=NC(=CC(=N1)OC1=CC(=NN1C)C(F)(F)F)C | C10H8ClF3N4O
reactant | thiophene-3-boronic acid | 0.55 g | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | sodium hydrogen carbonate | 0.8 g | C(O)([O-])=O.[Na+]
reactant | thiophene-3-boronic acid | 0.2 g | S1C=C(C=C1)B(O)O | C4H5BO2S
catalyst | bis(benzonitrile)palladium(II)chloride | 0.115 g | C1=CC=C(C=C1)C#N.C1=CC=C(C=C1)C#N.Cl[Pd]Cl
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | 15 mL | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(3-thienyl)-6-methyl-4-(1-methyl-3-trifluoromethyl-5-pyrazolyloxy)-pyrimidine | 1 g | S1C=C(C=C1)C1=NC(=CC(=N1)OC1=CC(=NN1C)C(F)(F)F)C | C14H11F3N4OS
